US07192978B2
Preparation of 2-Hydroxy-2,2-dithien-2-ylacetic acid (3R)-1-(3-thien-2-ylpropyl)pyrrolidin-3-yl ester
Prepared as described in Intermediate I-1 from 2-Hydroxy-2,2-dithien-2-ylacetic acid methyl ester and (3R)-1-(3-thien-2-ylpropyl)pyrrolidin-3-ol (Intermediate I-17). The yield was 0.83 g (49.1%) of the title product as an oil. A portion of this product was solidified by formation of the oxalate salt.

reactant | 2-Hydroxy-2,2-dithien-2-ylacetic acid methyl ester | COC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C11H10O3S2
reactant | (3R)-1-(3-thien-2-ylpropyl)pyrrolidin-3-ol | S1C(=CC=C1)CCCN1C[C@@H](CC1)O | C11H17NOS
product | 2-Hydroxy-2,2-dithien-2-ylacetic acid (3R)-1-(3-thien-2-ylpropyl)pyrrolidin-3-yl ester | yield was 0.83 g, 49.1% | S1C(=CC=C1)CCCN1C[C@@H](CC1)OC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C21H23NO3S3
